US07241887B2
3-Benzyl-8-(3-bromo-phenyl)-8-hydroxy-3-aza-bicyclo[3.2.1]octane
1,3-Dibromobenzene (20.2 ml, 167 mmol) in anhydrous ether (100 ml) in a flame dried 1LRB flask, at −78° C. was treated with a 2.5M solution of n-butyllithium in hexanes (58 ml, 145 mmol) via an addition funnel over 20 min. After 1 h at −78° C., the mixture was treated with a solution of 3-benzyl-3-aza-bicyclo[3.2.1]octan-8-one (18.0 g, 83.6 mmol) in anhydrous ether (100 ml) via addition funnel over 20 min. The reaction stirred at −78° C. 30 min, warmed to room temperature and judged complete by TLC. The reaction solution was quenched with saturated aqueous NH4Cl solution (200 ml) and stirred 18 h. The layers were separated and the aqueous layer extracted with ether (2×100 ml). The organic layer was washed with saturated aqueous Na2CO3 solution (150 mL), saturated aqueous NaCl solution (100 ml), dried over Na2SO4, filtered and concentrated to a dark oil. Passage through a silica pad (3×8 in) eluted with 5% EtOAc/hexanes yielded a light yellow oil (31 g, 100%). (TLC 20% EtOAc/hexanes Rf 0.21); 1H NMR (400 MHz, CDCl3) δ 7.61 (s, 1H), 7.41–7.19 (m, 8H), 3.58 (s, 2H), 2.83 (d, J=10.4 Hz, 2H), 2.60 (d, J=8.3 Hz, 2H), 2.35 (br s, 2H), 1.80 (d, J=7.5 Hz, 2H), 1.39 (m, 2H); APCI MS m/z 372.1, 374.1 (M+1)+.

reactant | 1,3-Dibromobenzene | 167 mmol, 20.2 ml | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-benzyl-3-aza-bicyclo[3.2.1]octan-8-one | 83.6 mmol, 18.0 g | C(C1=CC=CC=C1)N1CC2CCC(C1)C2=O | C14H17NO
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-Benzyl-8-(3-bromo-phenyl)-8-hydroxy-3-aza-bicyclo[3.2.1]octane | 31 g, 100% | C(C1=CC=CC=C1)N1CC2CCC(C1)C2(O)C2=CC(=CC=C2)Br | C20H22BrNO
